US09193723B2
1-(5-bromo-4-chlorothiophen-2-yl)ethanone
2-Bromo-3-chlorothiophene (10.7 g, 51.5 mmol) was dissolved in dichloromethane (73.5 ml). The flask was equipped with a desiccant filled drying tube and the solution was chilled in an ice bath. Acetyl chloride (6.06 g, 77 mmol) was added followed by addition of aluminum trichloride (8.24 g, 61.8 mmol) over about 2 minutes (reaction bubbled vigorously as aluminum trichloride was added). The reaction mixture was stirred overnight, allowing to warm to room temperature, and then added cautiously and with stirring to a 1-L beaker containing ˜200 mL sat sodium bicarbonate. The mixture was stirred for 30 minutes and diluted with dichloromethane (˜100 mL). The layers were separated and the organic layer was washed with aqueous saturated sodium bicarbonate, water, and brine. The combined organic layers were dried with sodium sulfate, filtered, and concentrated to give a crude solid. This material was recrystallized from hot hexanes to give the title compound.

reactant | 2-Bromo-3-chlorothiophene | 51.5 mmol, 10.7 g | BrC=1SC=CC1Cl | C4H2BrClS
reactant | Acetyl chloride | 77 mmol, 6.06 g | C(C)(=O)Cl | C2H3ClO
reactant | aluminum trichloride | 61.8 mmol, 8.24 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | dichloromethane | 73.5 ml | ClCCl | CH2Cl2
product | 1-(5-bromo-4-chlorothiophen-2-yl)ethanone | BrC1=C(C=C(S1)C(C)=O)Cl | C6H4BrClOS
